US09238667B2
Synthesis of benzyl 3-(1-((4-fluorophenyl)amino)-2-methoxyethylidene)-2-oxopyrrolidine-1-carboxylate
Into a 100 mL eggplant-shaped flask were added benzyl 3-(2-methoxyacetyl)-2-oxopyrrolidine-1-carboxylate potassium salt (2.93 g) [mw. 329.39, 8.9 mmol], 1 mol/L hydrochloric acid (16 mL) [16 mmol] and toluene (32 mL), and the mixture was stirred for 20 min. After partitioning, the organic layer was concentrated under reduced pressure, and to the concentrate were added toluene (12 mL), cyclohexane (36 mL), p-toluenesulfonic acid monohydrate (18.0 mg) [mw. 190.22, 0.09 mmol] and p-fluoroaniline (0.99 g) [mw. 111.12, 8.9 mmol]. Dean-Stark trap was set, and the mixture was subjected to dehydration reflux for 2 hr. After cooling to 25° C., 5 w/w % aqueous sodium bicarbonate solution (10 mL) was added and the mixture was partitioned. The organic layer was washed with water (10 mL), dried over magnesium sulfate and, after filtration, concentrated under reduced pressure. To the concentrate were added toluene (20 mL) and 10 w/w % aqueous citric acid solution, and the mixture was stirred and partitioned. The organic layer was dried over magnesium sulfate, filtered and concentrated under reduced pressure. Yellow candy-like product, 2.56 g, yield 74.8%. 1H-NMR (500 MHz, CDCl3, TMS) δ 2.77 (s, 1H), 3.31 (s, 3H), 3.81 (t, J=5.0 Hz, 2H), 3.96 (s, 2H), 5.30 (s, 2H), 6.90-7.12 (m, 5H), 7.22-7.49 (m, 5H), 10.44 (s, 1H).

reactant | benzyl 3-(2-methoxyacetyl)-2-oxopyrrolidine-1-carboxylate potassium salt | 8.9 mmol, 2.93 g | [K].COCC(=O)C1C(N(CC1)C(=O)OCC1=CC=CC=C1)=O
reactant | hydrochloric acid | 16 mmol, 1 mol/L, 16 mL | Cl | ClH
reactant | p-toluenesulfonic acid monohydrate | 0.09 mmol, 18.0 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-fluoroaniline | 8.9 mmol, 0.99 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
solvent | cyclohexane | 36 mL | C1CCCCC1 | C6H12
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 32 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl 3-(1-((4-fluorophenyl)amino)-2-methoxyethylidene)-2-oxopyrrolidine-1-carboxylate | yield 74.8% | FC1=CC=C(C=C1)NC(COC)=C1C(N(CC1)C(=O)OCC1=CC=CC=C1)=O | C21H21FN2O4
